US09340549B2
To a vial charged with 4-chloropyrimidin-5-amine (commercially available from Frontier Scientific, Inc., Logan Utah) (0.500 g, 3.86 mmol) were added THF (6.43 mL), toluene (6.43 mL), TEA (1.345 mL, 9.65 mmol) and phthalic anhydride (1.310 mL, 13.51 mmol). The mixture was heated to 100° C. for 72 hours. The mixture was then dried under reduced pressure and purified with a 50 g SNAP column (Biotage) ramping EtOAc in heptane from 0-45%, then isocratic at 45% to elute 2-(4-chloropyrimidin-5-yl)isoindoline-1,3-dione (0.773 g, 2.98 mmol, 77% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ=9.23 (d, J=0.4 Hz, 1H), 9.09 (d, J=0.4 Hz, 1H), 8.12-8.05 (m, 2H), 8.04-7.96 (m, 2H). m/z (ESI) 260.1 (M+H)+.

reactant | 4-chloropyrimidin-5-amine | ClC1=NC=NC=C1N | C4H4ClN3
reactant | THF | 6.43 mL | C1CCOC1 | C4H8O
reactant | phthalic anhydride | 13.51 mmol, 1.310 mL | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 6.43 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chloropyrimidin-5-yl)isoindoline-1,3-dione | 2.98 mmol, 0.773 g, 77% yield | ClC1=NC=NC=C1N1C(C2=CC=CC=C2C1=O)=O | C12H6ClN3O2
